US06017923
Scheme D, step b: 4-(p-Methoxybenzyloxy)-2-hydroxymethylbut-1-ene
Combine 4-(p-methoxybenzyloxy)-2-(t-butyldimethylsilyloxymethyl)but-1-ene (1.5 g, 4.75 mmol) and a solution of tetrabutylammonium fluoride (4.75 mL, 1M, 4.75 mmol). After 2.5 hours chromatograph on silica gel eluting with 1/2 ethyl acetate/hexane to give the title compound; Rf =0.24, silica gel, 1/2 ethyl acetate/hexane.

reactant | 4-(p-methoxybenzyloxy)-2-(t-butyldimethylsilyloxymethyl)but-1-ene | 4.75 mmol, 1.5 g | COC1=CC=C(COCCC(=C)CO[Si](C)(C)C(C)(C)C)C=C1 | C19H32O3Si
reactant | tetrabutylammonium fluoride | 4.75 mmol, 1M, 4.75 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-(p-Methoxybenzyloxy)-2-hydroxymethylbut-1-ene | COC1=CC=C(COCCC(=C)CO)C=C1 | C13H18O3
